US04833146
The compound was also obtained, inter alia, by a two-stage synthesis from 3-methylxanthine, which was first reacted with 1-chloro-2-hydroxy-2-methylpropane to give 7-(2-hydroxy-2-methylpropyl)-3-methylxanthine (melting point: 268°-269° C.; yield 51% of theory), the product then being alkylated in the 1-position with 1-chloro-5-hydroxy-5-methylhexane from Example 1a analogously to Example 5b to give the end product (yield: 79.5% of theory).

reactant | 3-methylxanthine | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | 1-chloro-2-hydroxy-2-methylpropane | ClCC(C)(C)O | C4H9ClO
product | 7-(2-hydroxy-2-methylpropyl)-3-methylxanthine | yield 51% | OC(CN1C=NC=2N(C(NC(C12)=O)=O)C)(C)C | C10H14N4O3
